US07829580B2
(E)-1-[2-Cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(ethoxycarbonylmethyl)pyrrol-2-yl]methylidene}-4-sulfanylpiperidine (Exemplification Compound No. 2-545)
To a solution of (E)-4-(acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(ethoxycarbonylmethyl)pyrrol-2-yl]methylidene}piperidine (1.41 g) in ethanol (30 ml) was added potassium carbonate (4.00 g) under ice-cooling, and the resulting mixture was stirred at room temperature for 2 hours. After filtration, water was added to the filtrate, and the resulting mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium chloride solution, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was removed in vacuo, and the residue was purified by a preparative HPLC (YMC-Pack ODS-A; YMC, mobile phase: 80% acetonitrile/water) to afford the title compound (0.49 g, yield: 38%) as a colourless amorphous solid.

reactant | (E)-4-(acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(ethoxycarbonylmethyl)pyrrol-2-yl]methylidene}piperidine | 1.41 g | C(C)(=O)SC1/C(/CN(CC1)C(C(=O)C1CC1)C1=C(C=CC=C1)F)=C/C=1N(C=CC1)CC(=O)OCC | C27H31FN2O4S
reactant | potassium carbonate | 4.00 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (E)-1-[2-Cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(ethoxycarbonylmethyl)pyrrol-2-yl]methylidene}-4-sulfanylpiperidine | 0.49 g, yield: 38% | C1(CC1)C(C(C1=C(C=CC=C1)F)N1C\C(\C(CC1)S)=C/C=1N(C=CC1)CC(=O)OCC)=O | C25H29FN2O3S
